US05958918
A. 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl](thiophene-3-ylmethyl)amide
The title compound is prepared as described in EXAMPLE 90, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide (0.193 g, 0.44 mmol), prepared as described in EXAMPLE 43, part A, and thiophen-3-ylmethyl bromide (0.30 g, 1.68 mmol). The crude product is triturated with hexane/ether and used without further purification (0.25 g, 0.48 mmol).

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | 0.44 mmol, 0.193 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C23H21N3O4S
reactant | thiophen-3-ylmethyl bromide | 1.68 mmol, 0.30 g | S1C=C(C=C1)CBr | C5H5BrS
product | 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl](thiophene-3-ylmethyl)amide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC2=CSC=C2)=O)C=CC1 | C28H25N3O4S2
